US09352049B2
(S)-methyl 18-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-2,2-dimethyl-4,15-dioxo-3,8,11-trioxa-5,14-diazanonadecan-19-oate (225 mg, 0.33 mmol, crude) in 6 M aqueous hydrochloric acid (20 mL) was stirred at ambient temperature for 2 hours. After this time, the reaction was purified by semi-preparative HPLC (0-70% H2O/CH3CN with 0.05% TFA over 25 minutes) to give a mixture of the desired acid and the methyl ester (190 mg) as a yellow solid. To this mixture lithium hydroxide (30 mg, 1.25 mmol) was added along with a 1:1 THF/H2O mixture (6 mL). This mixture was stirred at ambient temperature for 2 hours. After this time, the THF was removed under reduced pressure, and the reaction was purified by semi-preparative HPLC (0-70% H2O/CH3CN with 0.05% TFA over 25 min) to afford (S)-2-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-5-(2-(2-(2-aminoethoxy)ethoxy)ethylamino)-5-oxopentanoic acid (185 mg, 100%) as a yellow solid that was obtained from lyophilization: 1H NMR (500 MHz, DMSO-d6) δ 12.47 (vbs, 1H), 11.44 (vbs, 1H), 8.64 (s, 1H), 8.17 (d, J=7.5 Hz, 1H), 7.87 (t, J=5.5 Hz, 1H), 7.72 (bs, 2H), 7.65 (d, J=9.0 Hz, 2H), 6.93 (bs, 2H), 6.64 (d, J=9.0 Hz, 2H), 4.48 (s, 2H), 4.30-4.26 (m, 1H), 3.57-3.49 (m, 6H), 3.37 (t, J=6.0 Hz, 2H), 3.22-3.13 (m, 2H), 2.99-2.94 (m, 2H), 2.19 (t, J=7.5 Hz, 2H), 2.08-2.01 (m, 1H), 1.93-1.85 (m, 1H), exchangeable proton not observed (1H); ESI MS m/z=570 [M−H]−.

reactant | (S)-methyl 18-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-2,2-dimethyl-4,15-dioxo-3,8,11-trioxa-5,14-diazanonadecan-19-oate | 0.33 mmol, 225 mg | NC1=NC2=NC=C(N=C2C(=N1)O)CNC1=CC=C(C(=O)N[C@@H](CCC(NCCOCCOCCNC(OC(C)(C)C)=O)=O)C(=O)OC)C=C1 | C31H43N9O9
reactant | lithium hydroxide | 1.25 mmol, 30 mg | [OH-].[Li+]
reactant | THF H2O | 6 mL | C1CCOC1.O
solvent | hydrochloric acid | 6 M, 20 mL | Cl | ClH
product | (S)-2-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-5-(2-(2-(2-aminoethoxy)ethoxy)ethylamino)-5-oxopentanoic acid | 185 mg, 100% | NC1=NC2=NC=C(N=C2C(=N1)O)CNC1=CC=C(C(=O)N[C@H](C(=O)O)CCC(=O)NCCOCCOCCN)C=C1 | C25H33N9O7
